US09227971B2
Step A—Synthesis of 1-(4-bromo-2-fluorophenyl)cyclopropanamine
To a cooled solution of 4-bromo-2-fluorobenzonitrile (432 mg, 2.16 mmol) in THF (10 mL) at −78° C., was added titanium (IV) isopropoxide (0.7 mL, 2.4 mmol). After stirring for 10 minutes, ethylmagnesium bromide (1M, 4.75 mL, 4.75 mmol) was added and the reaction mixture warmed to 0° C. and then to rt. BF3.OEt (0.53 mL, 4.32 mmol) was then added and the reaction mixture stirred for an additional 1 h at rt. The reaction was quenched with saturated NH4Cl and NaOH (1N). Extraction with EtOAc, and drying over MgSO4 yielded crude product which was taken forward as crude in the next step. HPLC-MS tR=0.34 min (UV254 nm); mass calculated for formula C9H9BrFN 228.99, observed LCMS m/z 230.0 (M+H).

reactant | 4-bromo-2-fluorobenzonitrile | 2.16 mmol, 432 mg | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | ethylmagnesium bromide | 4.75 mmol, 1M, 4.75 mL | C(C)[Mg]Br
reactant | BF3 | B(F)(F)F | BF3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 2.4 mmol, 0.7 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(4-bromo-2-fluorophenyl)cyclopropanamine | BrC1=CC(=C(C=C1)C1(CC1)N)F | C9H9BrFN
